US20010018438A1
Methyl-4-pyridinylacetate (6.3 g) was dissolved in N,N-dimethylformamide (30 cm3) treated with N,N-dimethylformamide dimethyl acetal (15 cm3) and heated at 80° C. for 2 h. The reaction was then cooled and evaporated under high vacuum to afford crude methyl-3-dimethylamino-2-(pyridin-4-yl)propenoate (7.3 g) which was used without further purification.

reactant | Methyl-4-pyridinylacetate | 6.3 g | COC(CC1=CC=NC=C1)=O | C8H9NO2
reactant | N,N-dimethylformamide dimethyl acetal | 15 cm3 | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 30 cm3 | CN(C=O)C | C3H7NO
product | methyl-3-dimethylamino-2-(pyridin-4-yl)propenoate | 7.3 g | COC(C(=CN(C)C)C1=CC=NC=C1)=O | C11H14N2O2
